US08664226B2
Process 1: To the acetonitrile (1 mL) solution of 4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile (68 mg, 0.15 mmol), potassium carbonate (41 mg, 0.30 mmol) and iodoethane (70 mg, 0.448 mmol) were added and stirred at 60° C. for 5 hrs. After that, the reaction mixture was filtered and washed with ethyl acetate. The filtrate was distilled off to obtain 4′-{[4-butyl-1-(5-ethoxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile.

reactant | 4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile | 0.15 mmol, 68 mg | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C1=NC=C(C=N1)O)C | C27H25N5O2
reactant | potassium carbonate | 0.30 mmol, 41 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.448 mmol, 70 mg | ICC | C2H5I
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 4′-{[4-butyl-1-(5-ethoxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C1=NC=C(C=N1)OCC)C | C29H29N5O2
